US20010007873A1
A. 3-Fluoro-6-bromo-o-xylene
To a 100 mL round-bottomed flask equipped with N2 inlet were added 2.50 mL (20 mmol) 3-fluoro-o-xylene, 10 mL acetic acid, and 1.03 mL (20 mmol) bromine. After 12 hours at room temperature, the solution had turned colorless and was poured into water and extracted into petroleum ether. The organic layer was washed with water and 1 N sodium hydroxide solution, dried over sodium sulfate, and evaporated to a liquid, 4 g (100%), as a mixture of isomers.

reactant | 3-fluoro-o-xylene | 20 mmol, 2.50 mL | FC1=C(C(=CC=C1)C)C | C8H9F
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | bromine | 20 mmol, 1.03 mL | BrBr | Br2
solvent | water | O | H2O
product | 3-Fluoro-6-bromo-o-xylene | FC1=C(C(=C(C=C1)Br)C)C | C8H8BrF
